US06858638B2
N-[3-(1H-Benzimidazol-2-yl)-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 2 from 130 mg of 3-(1H-benzimidazol-2-yl)-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-ylamine, 5 ml of pyridine and 87 mg of 2-methylsulfonylbenzenesulfonyl chloride. 192 mg of N-[3-(1H-benzimidazol-2-yl)-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of an orange lac (Rf=0.53, silica gel thin layer chromatography, eluent: cyclohexane/ethyl acetate (50/50 by volume), mass analysis: Cl: m/z 598 (M+H)+.)

reactant | 3-(1H-benzimidazol-2-yl)-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-ylamine | 130 mg | N1C(=NC2=C1C=CC=C2)C2=NN(C1=CC=C(C=C21)N)COCC[Si](C)(C)C | C20H25N5OSi
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-methylsulfonylbenzenesulfonyl chloride | 87 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | N-[3-(1H-benzimidazol-2-yl)-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 192 mg | N1C(=NC2=C1C=CC=C2)C2=NN(C1=CC=C(C=C21)NS(=O)(=O)C2=C(C=CC=C2)S(=O)(=O)C)COCC[Si](C)(C)C | C27H31N5O5S2Si
